US05686459
8.83 g (36.2 mmol) of 4-bromophenylalanine, 4.74 g (81.7 mmol) acetone and 7.00 g (37.43 mmol) of N-benzylmaleimide were heated under reflux for 68 hours. in 140 ml of toluene with the addition of molecular sieve A4. The solvent was removed in a vacuum and the residue was separated chromatographically (hexane/ethyl acetate 1:1+1% triethylamine). As the main product there were obtained 3.88 g of (3aRS,4RS,6aSR)-2-benzyl-4-(4-bromo-benzyl)-6,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrol-1,3-dione as a colourless oil which, after the addition of a small amount of methanol, crystallized overnight to colourless needles. M.p.: 142°-143° C. FAB-MS: 427 ([M+H]+, 58); 257 (66); 240 (8); 200 (6); 91 (58). 2.12 g of (3aRS,4SR,6aSR)-2-benzyl-4-(4-bromobenzyl)-6,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione were obtained as a byproduct as a colourless oil. FAB-MS: 427 ([M+H]+, 88); 257 (89); 91 (100).

reactant | 4-bromophenylalanine | 36.2 mmol, 8.83 g | BrC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10BrNO2
reactant | acetone | 81.7 mmol, 4.74 g | CC(=O)C | C3H6O
reactant | N-benzylmaleimide | 37.43 mmol, 7.00 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | (3aRS,4RS,6aSR)-2-benzyl-4-(4-bromo-benzyl)-6,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrol-1,3-dione | 3.88 g | C(C1=CC=CC=C1)N1C(C2C(NC(C2C1=O)CC1=CC=C(C=C1)Br)(C)C)=O | C22H23BrN2O2
